US08859108B2
Step 1: Synthesis of 2-(4-{10-[4-(1-naphthyl)phenyl]-9-anthryl}phenyl)benzoxazole
In a 50 mL three-neck flask, 0.97 g (2.2 mmol) of 2-[4-(10-bromo-9-anthryl)phenyl]benzoxazole, 0.57 g (2.3 mmol) of 4-(1-naphthyl)phenylboronic acid, 0.46 g (4.3 mmol) of sodium carbonate, 15 mL of toluene, 3 mL of ethanol, and 3 mL of water were placed. The mixture was degassed by being stirred under reduced pressure, and the air in the flask was replaced with nitrogen. To the mixture, 35 mg (0.030 mmol) of tetrakis(triphenylphosphine)palladium(0) was added, and the mixture was stirred under nitrogen stream at 100° C. for 18 hours. After a certain period, water was added to the mixture, and an aqueous layer was extracted with toluene. The obtained extracted solution and the organic layer were combined and washed with a saturated aqueous solution of sodium hydrogen carbonate and saturated saline, and the organic layer was dried with magnesium sulfate. The mixture was gravity filtered, and the obtained filtrate was condensed to give a solid. The solid was purified by silica gel column chromatograghy (toluene:hexane=2:1) and recrystallized with toluene/hexane, giving 1.2 g of the target white powder in a yield of 94%.

reactant | 2-[4-(10-bromo-9-anthryl)phenyl]benzoxazole | 2.2 mmol, 0.97 g | BrC1=C2C=CC=CC2=C(C2=CC=CC=C12)C1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C27H16BrNO
reactant | 4-(1-naphthyl)phenylboronic acid | 2.3 mmol, 0.57 g | C1(=CC=CC2=CC=CC=C12)C1=CC=C(C=C1)B(O)O | C16H13BO2
reactant | sodium carbonate | 4.3 mmol, 0.46 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.030 mmol, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 3 mL | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-(4-{10-[4-(1-naphthyl)phenyl]-9-anthryl}phenyl)benzoxazole | 1.2 g, yield of 94% | C1(=CC=CC2=CC=CC=C12)C1=CC=C(C=C1)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C43H27NO
